US07091214B2
The method described in Part A of Examples 142–144 was used to treat tert-butyl 4-[(3-amino-7-bromoquinolin-4-ylamino)methyl]piperidine-1-carboxylate (15.0 g, 34.5 mmol) with triethyl orthopropionate (6.68 g, 37.9 mmol). After completion, the reaction mixture was concentrated under reduced pressure, and the residue was purified by flash column chromatography on silica gel (eluting with 95:5 chloroform:CMA) followed by recrystallization from ethyl acetate to provide 12.6 g of tert-butyl 4-[(7-bromo-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate as a white powder, mp 208–209° C.

reactant | tert-butyl 4-[(3-amino-7-bromoquinolin-4-ylamino)methyl]piperidine-1-carboxylate | 34.5 mmol, 15.0 g | NC=1C=NC2=CC(=CC=C2C1NCC1CCN(CC1)C(=O)OC(C)(C)C)Br | C20H27BrN4O2
reactant | triethyl orthopropionate | 37.9 mmol, 6.68 g | C(CC)(OCC)(OCC)OCC | C9H20O3
product | tert-butyl 4-[(7-bromo-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate | 12.6 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC3CCN(CC3)C(=O)OC(C)(C)C)CC | C23H29BrN4O2
